US07855292B2
A. 3,3-Bis-(4-chloro-phenyl)-propionic acid
To a suspension of 4-chlorocinnamic acid (10.0 g, 54.8 mmol) in chlorobenzene (75 mL) at 0° C. was added AlCl3 (12.0 g, 90 mmol) in 4 portions. The mixture was stirred for 10 min at 0° C. then was warmed to 40° C. and stirred for 1 h. Crushed ice (75 g) was added carefully, followed by water (75 mL). The aqueous layer was extracted with DCM (3×). The combined organic extracts were dried (Na2SO4) and concentrated to provide the crude acid as a tan solid. Recrystallization from EtOH provided 7.81 g (48%) of the desired acid as a pale yellow solid. 1H NMR (400 MHz, CDCl3): 7.31-7.22 (m, 4H), 7.14-7.07 (m, 4H), 4.47 (t, J=8.0, 1H), 3.03 (d, J=7.9, 2H).

reactant | 4-chlorocinnamic acid | 54.8 mmol, 10.0 g | ClC1=CC=C(C=CC(=O)O)C=C1 | C9H7ClO2
reactant | AlCl3 | 90 mmol, 12.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | 75 mL | O | H2O
solvent | chlorobenzene | 75 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 3,3-Bis-(4-chloro-phenyl)-propionic acid | 7.81 g, 48% | ClC1=CC=C(C=C1)C(CC(=O)O)C1=CC=C(C=C1)Cl | C15H12Cl2O2
